US05449686
4b. (3-Cyclopropylmethoxy-4-methoxyphenyl)acetonitrile
To 3-cyclopropylmethoxy-4-methoxybenzaldehyde (21.2 g, 103 mmol) was added lithium bromide (17.8 g, 206 mmol) and acetonitrile (110 mL). Upon dissolution, the reaction mixture was cooled to 0° C. Trimethylsilylchloride (19.6 mL, 154 mmol) was slowly added and the reaction mixture was allowed to warm to room temperature and was stirred for 15 min. The reaction mixture was again cooled to 0° C., 1,1,3,3-tetramethyldisiloxane (27.2 mL, 154 mmol) was added and the resulting mixture was allowed to warm to room temperature. After stirring for 2 h, the mixture was separated into two layers. The lower layer was removed, was diluted with methylene chloride,was filtered and the filtrate was concentrated under reduced pressure; this procedure was repeated a total of three times. The resulting light tan oil was dissolved in dimethylflormamide (90 mL) under an argon atmosphere and was treated with sodium cyanide (11.3 g, 232 mmol). The resulting mixture was stirred at room temperature for 2 h, then poured into cold water and extracted twice with ethyl acetate. The combined organic extract was washed three times with water, once with brine and was dried (sodium sulfate). The solvent was removed in vacuo to provide an oil (21.4 g, 96%), which was used without purification.

reactant | 3-cyclopropylmethoxy-4-methoxybenzaldehyde | 103 mmol, 21.2 g | C1(CC1)COC=1C=C(C=O)C=CC1OC | C12H14O3
reactant | lithium bromide | 206 mmol, 17.8 g | [Br-].[Li+]
reactant | Trimethylsilylchloride | 154 mmol, 19.6 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | 1,1,3,3-tetramethyldisiloxane | 154 mmol, 27.2 mL | C[SiH](O[SiH](C)C)C | C4H14OSi2
reactant | sodium cyanide | 232 mmol, 11.3 g | [C-]#N.[Na+]
solvent | water | O | H2O
solvent | acetonitrile | 110 mL | C(C)#N | C2H3N
product | (3-Cyclopropylmethoxy-4-methoxyphenyl)acetonitrile | 21.4 g, 96% | C1(CC1)COC=1C=C(C=CC1OC)CC#N | C13H15NO2
